US05140047
2,3-Dihydronaphtho[1,2-b]furan-3-one.
To a solution of 2-(1-naphthoxy)acetic acid (2.26 g, 11.2 mmol) in benzene (20 mL) was added oxalyl chloride (5 mL, 57.3 mmol). The resulting mixture was heated at reflux for 30 min, then allowed to cool and concentrated under reduced pressure. The residue was dissolved in benzene, and to this was added aluminium chloride (1.83 g, 13.9 mmol). The resulting mixture was stirred at room temperature for 1 h, then poured into ice. The organic phase was separated and washed with saturated aqueous NaCl. Removal of the solvent in vacuo provided the title compound (1.74 g, 84%).

reactant | 2-(1-naphthoxy)acetic acid | 11.2 mmol, 2.26 g | C1(=CC=CC2=CC=CC=C12)OCC(=O)O | C12H10O3
reactant | oxalyl chloride | 57.3 mmol, 5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aluminium chloride | 13.9 mmol, 1.83 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | 2,3-Dihydronaphtho[1,2-b]furan-3-one | 1.74 g, 84% | O1C2=C(C(C1)=O)C=CC1=CC=CC=C12 | C12H8O2
